US07776869B2
A resealable tube was charged with 2-bromo-5-(trifluoromethyl)aniline (1.00 g, 4.16 mmol), 2-pyrrolidinone (0.425 g, 5.00 mmol), N,N′-ethylene diamine (0.037 g, 0.42 mmol), potassium carbonate (1.15 g, 8.32 mmol), copper iodide (0.80 mg, 0.42 mmol) and toluene (1.0 mL). The tube was sealed and the mixture was heated at 80° C. for 24 h. The resulting mixture was partitioned between ethyl acetate and water. The organic phase was separated, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified via column chromatography on silica gel (gradient elution with 0-100% ethyl acetate-hexane) to afford 1-(2-amino-4-(trifluoromethyl)phenyl)pyrrolidin-2-one as a gray solid. MS m/z=245 [M+H]+. Calc'd for C11H11F3N2O: 244.

reactant | 2-bromo-5-(trifluoromethyl)aniline | 4.16 mmol, 1.00 g | BrC1=C(N)C=C(C=C1)C(F)(F)F | C7H5BrF3N
reactant | 2-pyrrolidinone | 5.00 mmol, 0.425 g | N1C(CCC1)=O | C4H7NO
reactant | N,N′-ethylene diamine | 0.42 mmol, 0.037 g | C(CN)N | C2H8N2
reactant | potassium carbonate | 8.32 mmol, 1.15 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper iodide | 0.42 mmol, 0.80 mg | [Cu](I)I
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-amino-4-(trifluoromethyl)phenyl)pyrrolidin-2-one | NC1=C(C=CC(=C1)C(F)(F)F)N1C(CCC1)=O | C11H11F3N2O
